US05547972
4-Formylcinnamic acid (1.76 g) and 1-(3-aminopropyl)-2-methylimidazole (2.78 g) were stirred in methanol (100 ml) for 5 hours at ambient temperature. Sodium borohydride (1.14 g) was added and the mixture stirred for 2 days at ambient temperature. The reaction mixture was evaporated to dryness. The residue was dissolved in water (60 ml) and washed with dichloromethane. The aqueous solution was neutralised with 5M hydrochloric acid and then washed with dichloromethane. The aqueous layer was evaporated to dryness to give crude 4-[3-(2-methylimidazol-1-yl)propylaminomethyl]cinnamic acid which was boiled under reflux in absolute ethanol (50 ml) and concentrated sulphuric acid (1.5 ml) with stirring for 20 hours. The mixture was hot filtered and the residue dissolved in water, basified with 2M sodium hydroxide and extracted into ethyl acetate to yield an oil which was dissolved in ether and treated with ethereal hydrogen chloride. The solid was collected by filtration and recrystallised from propan-2-ol to give ethyl 4-[3-(2-methylimidazol-1-yl)propylaminomethyl]cinnamate dihydrochloride, m.p. 109°-110.5° C.

reactant | 4-Formylcinnamic acid | 1.76 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | 1-(3-aminopropyl)-2-methylimidazole | 2.78 g | NCCCN1C(=NC=C1)C | C7H13N3
reactant | Sodium borohydride | 1.14 g | [BH4-].[Na+]
reactant | sulphuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | methanol | 100 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | ethyl 4-[3-(2-methylimidazol-1-yl)propylaminomethyl]cinnamate dihydrochloride | Cl.Cl.CC=1N(C=CN1)CCCNCC1=CC=C(C=CC(=O)OCC)C=C1 | InChI=1S/C19H25N3O2.2ClH/c1-3-24-19(23)10-9-17-5-7-18(8-6-17)15-20-11-4-13-22-14-12-21-16(22)2;;/h5-10,12,14,20H,3-4,11,13,15H2,1-2H3;2*1H
